Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Afib with RVR
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ hx HTN, longstanding thrombocytopenia, BPH presents from 
primary care doctor's office with Afib with rapid ventricular 
response with rate to 140s. Has had mild lightheadednes x 
several weeks with some global weakness with daily activities. 
At baseline able to ambulate with cane and is still able to to 
but with a sensation of weakness. Denies chest pain or shortness 
of breath. Pt without history of tachyarrhythmia.  
Patient has endorsed non bloody diarrhea for the past 2 weeks, 
constant, up to 5 times a day, watery, no blood, nausea or 
vomiting. Denies fevers/chills. Patient has recently moved here 
from ___ after his wife expired and has had decreased PO 
intake after that thought to be from depression. Has lost 
significant weight since then. Most recent baseline is about 142 
pounds.  
In the ED, initial vital signs were 98.2 72 133/66 20 99% RA. 
Labs notable for Cr 1.5 (baseline unknown) and platelets 107. UA 
negative.  
Patient was given 10mg IV Diltiazem. Also recieved 2L NS.  
 
Past Medical History:
1. Thrombocytopenia. Per outpatient ___ note baseline is in 
50,000s x many years.  
2. Depression.  
3. Essential tremor.  
4. Diarrhea.  
5. Prostate cancer s/p radiation treatment.  
6. Hypertension.  
7. Benign prostatic hypertrophy.  
8. Ankle edema.  
9. Memory disorder.  

 
Social History:
___
Family History:
Non-contributory 
 
Physical Exam:
ADMISSION
Vitals- 98.2 160/90 85 18 99RA  
General- Alert, oriented, no acute distress  
HEENT- Sclera anicteric, MMM, oropharynx clear  
Neck- supple, JVP not elevated, no LAD  
Lungs- Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV- Irregular rate, no appreciable murmurs  
Abdomen- soft, non-tender, minimal tenderness throughout, 
normoactive bowel sounds, no rebound tenderness or guarding, no 
organomegaly  
GU- no foley  
Ext- warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro- CNs2-12 intact, motor function grossly normal  

DISCHARGE
Vitals- 97.9 118/73 65 18 98RA  
Tele: ___ overnight, 110s with activity. Afib.  
General- Alert, oriented, no acute distress  
HEENT- Sclera anicteric, MMM, oropharynx clear  
Neck- supple, JVP not elevated, no LAD  
Lungs- Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV- Irregular rate, no appreciable murmurs  
Abdomen- soft, non-tender, minimal tenderness throughout, 
normoactive bowel sounds, no rebound tenderness or guarding, no 
organomegaly  
GU- no foley  
Ext- warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro- CNs2-12 intact, motor function grossly normal  

 
Pertinent Results:
ADMISSION
___ 12:18PM BLOOD WBC-5.6 RBC-4.16* Hgb-14.1 Hct-43.0 
MCV-103* MCH-33.8* MCHC-32.7 RDW-13.3 Plt ___
___ 12:18PM BLOOD ___ PTT-40.1* ___
___ 12:18PM BLOOD Glucose-113* UreaN-27* Creat-1.5* Na-138 
K-4.1 Cl-105 HCO3-23 AnGap-14

TROPONINS
___ 12:18PM BLOOD cTropnT-0.03*
___ 12:55AM BLOOD CK-MB-3 cTropnT-0.02*
___ 01:00PM BLOOD CK-MB-4 cTropnT-0.02*

IMAGING
ECHO ___: The left atrium is elongated. No atrial septal 
defect is seen by 2D or color Doppler. The estimated right 
atrial pressure is ___ mmHg. Left ventricular wall thicknesses 
and cavity size are normal. There is mild regional left 
ventricular systolic dysfunction with hypokinesis of the basal 
to mid anterolateral walls). The remaining segments contract 
normally (LVEF = 50-55%). The right ventricular free wall is 
hypertrophied with normal chamber size and free wall 
contractility. The ascending aorta is mildly dilated. The aortic 
valve leaflets (3) are mildly thickened. There is no aortic 
valve stenosis. Mild (1+) aortic regurgitation is seen. The 
mitral valve leaflets are mildly thickened. There is no mitral 
valve prolapse. Mild (1+) mitral regurgitation is seen. The 
tricuspid valve leaflets are mildly thickened. The estimated 
pulmonary artery systolic pressure is normal. There is a 
trivial/physiologic pericardial effusion. 

IMPRESSION: Mild regional left ventricular systolic dysfunction 
c/w CAD (Diagonal branch distribution) with normal cavity size 
and wall thicknesses. Right ventricular hypertrophy with normal 
cavity size and free wall contractility. Mild aortic 
regurgitation, mild mitral regurgitation, and mild tricuspid 
regurgitation.  

DISCHARGE
___ 01:00PM BLOOD WBC-4.8 RBC-4.08* Hgb-13.8* Hct-42.2 
MCV-103* MCH-33.8* MCHC-32.8 RDW-13.3 Plt ___
___ 01:00PM BLOOD Glucose-140* UreaN-27* Creat-1.3* Na-137 
K-4.1 Cl-106 HCO3-22 AnGap-13
___ 01:00PM BLOOD Calcium-8.1* Phos-3.0 Mg-2.___RIEF HOSPITAL ___ AND ACTIVE ISSUE (AFIB w RVR)
___ hx HTN, longstanding thrombocytopenia, BPH presents from 
primary care doctor's office with Afib with rapid ventricular 
response with rate to 140s. Was given IV metoprolol in ED then 
started on 12.5 mg TID with good rate control. With CHADS2 score 
of 2 and discussion with family about risks of bleeding we 
decided it was not a good idea to start coumadin. ASA 81 was 
started in stead. His blood pressures were normotensive with the 
metoprolol so his lisinopril was held at d/c. Also, we held his 
lasix at d/c as he does not have clinical CHF based on 
echocardiogram done while in house. 

OTHER ACTIVE ISSUES  
# DIARRHEA: Likely secondary to viral illness, but this has been 
ongoing for 2 weeks. Was screened in ED for norovirus. 
Electrolytes are currently stable. No recent antibiotic usage 
and no leukocytosis currently.  

# HYPOTHYROIDISM: Found to have elevated TSH incidentally during 
workup for Afib. Possibly also contributory to depression. We 
were reluctant to start thyroid replacement in-house due to Afib 
and diarrhea.  

# Ankle Edema: Has had this for some time and currently does not 
appear more swollen than at baseline. Patient currently appears 
euvolemic. Unclear if this is venous insufficiency or sequela of 
heart failure which would be more likely diastolic.  

INACTIVE ISSUES
# HTN: Pressures controlled currently controlled. Lisinopril 
held initially for possibly elevated creatinine, and no 
restarted on discharge since pressures under good contol with 
metoprolol.  

# Essential Tremor: Stable. Patient reports weight loss 
requiring loosening of his belt per PCP, which is possibly a 
side effect of his topamax.  
# Depression: Secondary to death of wife in ___. Continued 
paroxetine  
# BPH: continued home terazosin  

TRANSITIONAL ISSUES
# Consider starting thyroid replacement as outpatient
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 20 mg PO DAILY 
2. Furosemide 20 mg PO DAILY 
3. Terazosin 10 mg PO HS 
4. Topiramate (Topamax) 25 mg PO DAILY 
5. Paroxetine 10 mg PO DAILY 

 
Discharge Medications:
1. Paroxetine 10 mg PO DAILY 
2. Terazosin 10 mg PO HS 
3. Aspirin 81 mg PO DAILY 
4. Topiramate (Topamax) 25 mg PO DAILY 
5. Metoprolol Succinate XL 37.5 mg PO DAILY 
RX *metoprolol succinate 25 mg 1.5 tablet(s) by mouth qAM Disp 
#*45 Tablet Refills:*0
6. Psyllium 1 PKT PO DAILY 
RX *psyllium   1 packet by mouth qday Disp #*30 Packet 
Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Atrial fibrillation with rapid ventricular response

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

Thank you for choosing us for your care. You were admitted for a 
fast heart rhythm called atrial fibrillation. We controlled your 
heart rate with the medicine Metoprolol.

We did an ultrasound of your heart, monitored your rhythm 
overnight did blood tests. We did not find any significant 
factors that may have incited atrial fibrillation. At present, 
we believe this may be due to age related changes.

You also reported diarrhea at home. We do not think that this 
diarrhea was infectious.  Your primary care doctor can help come 
up with a strategy to work up and treat the cause of the 
diarrhea.  

Please see the attached medications sheet to see your updated 
medication list.  
 
Followup Instructions:
___